US05468589
Using p-bromophenol (17.3 g, 0.1 mole) and methyl vinyl ether (14.0 g, 0.2 mole), the reaction was carried out in the same manner as described in Synthesis Example 1, (1), and the crude oil (24 g) was purified by distillation under reduced pressure to afford 20.8 g of p-bromo-(1-methoxyethoxy)benzene as a pale yellow oil having a boiling point 89-90° C./2 mmHg.

reactant | p-bromophenol | 0.1 mole, 17.3 g | C1=CC(=CC=C1O)Br | C6H5BrO
reactant | methyl vinyl ether | 0.2 mole, 14.0 g | C(=C)OC | C3H6O
product | p-bromo-(1-methoxyethoxy)benzene | 20.8 g | BrC1=CC=C(C=C1)OC(C)OC | C9H11BrO2
